US06806389B1
2,3,3a,4-Tetrahydro-2-[(4-methylphenyl)sulfonyl]-cyclopenta[c]pyrrol-5(1H)-one
To a suspension of the catalyst A precursor resin, shown above {24 mg, 0.025 mmol[Co2(CO)m]} in anhydrous THF(5 cm3) was added N-(2-propenyl)-N-(2-propynyl)-4-methylphenylsulfonamide (125 mg, 0.5 mmol) and the resulting mixture was heated to 65° C. under an atmosphere of CO (50 mbar). After 48 h the mixture was filtered, the resin was washed with THF (2×1 cm3) and the combined filtrates were concentrated in vacuo. 1H-NMR spectroscopy of the pale yellow residue indicated a 1:1 mixture of starting material and product and no by-products. Purification by flash chromatography (SiO2, 20% EtOAc/hexane) gave the title compound (46 mg, 0.167 mmol, 33%) as a white solid; mp 147-149° C.; vmax(CH2Cl2)/cm−1 3058, 1716, 1651, 1350, 1164, 1094, 673; δH (360 MHz)(CDCl3) 1.96-2.02 (1 H, m), 2.32 (3 H, s, CH3), 2.48-2.58 (2 H, m), 3.01-3.36 (1 H, m), 3.93-3.98 (2 H, m), 4.27 (1 H, d, J 16.5), 5.92 (1 H, s, C═CH), 7.28 (2 H, d, J 8, Ar-H), 7.66 (2 H, d, J 8, Ar-H); δC{1H} (90 MHz)(CDCl3) 21.6 (CH3), 39.8 (CH2), 44.0 (CH), 47.7 (CH2), 52.5 (CH2), 126.2 (CH), 127.5 (CH), 130.1 (CH), 133.7 (C), 144.2 (C), 178.6 (C), 207.2 (C═O).

reactant | N-(2-propenyl)-N-(2-propynyl)-4-methylphenylsulfonamide | 0.5 mmol, 125 mg | C(C=C)N(S(=O)(=O)C1=CC=C(C=C1)C)CC#C | C13H15NO2S
reactant | THF | 5 cm3 | C1CCOC1 | C4H8O
product | 2,3,3a,4-Tetrahydro-2-[(4-methylphenyl)sulfonyl]-cyclopenta[c]pyrrol-5(1H)-one | 0.167 mmol, 46 mg, 33% | CC1=CC=C(C=C1)S(=O)(=O)N1CC=2C(C1)CC(C2)=O | C14H15NO3S
